US07696216B2
4-(4-Isopropyl-phenyl)-1-(3-methane-sulphonyl-benzyl)-5-propargyloxy-phenyl-methanone
A mixture of 100 mg (0.34 mmol) (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone, 80 mg (0.58 mmol) K2CO3 and 77 mg (0.375 mmol) 1-chloro-methyl-3-methanesulphonyl-benzene in 1 ml dimethylformamide is stirred at 80° C. for 6 h and at 100° C. for 3 h. Then the reaction mixture is poured onto water and extracted with ethyl acetate. The combined organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1) to afford the title compound as a yellow foam.

reactant | (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.34 mmol, 100 mg | NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C19H19NO2
reactant | K2CO3 | 0.58 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-methyl-3-methanesulphonyl-benzene | 0.375 mmol, 77 mg | ClC1=C(C(=CC=C1)S(=O)(=O)C)C | C8H9ClO2S
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(4-Isopropyl-phenyl)-1-(3-methane-sulphonyl-benzyl)-5-propargyloxy-phenyl-methanone | C(C)(C)C1=CC=C(C=C1)C1=CCC(C=C1OCC#C)(CC1=CC(=CC=C1)S(=O)(=O)C)C=O | C27H28O4S
